US06552015B2
3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1] octane hydrochloride salt (1.5 g, 5.79 mmol), triethylamine (1.77 mL, 12.73 mmol) and methanesulfonic acid 4-(2,2,2-trifluoro-acetylamino)-butyl ester (2.29 g, 8.68 mmol) were combined in tetrahydrofuran (25 mL). The resulting white heterogeneous reaction was heated at reflux for 24 hours. The mixture was cooled diluted with saturated sodium bicarbonate (200 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine (200 mL), dried with magnesium sulfate and concentrated to a light brown oil. Silica gel flash chromatography using 5% methanol/ chloroform as eluent yielded N-{4-[3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-butyl}-2,2,2-trifluoro-acetamide (0.88 9, 39%) as an off-white solid which had the following properties: Mp. 83-85° C., 1H NMR CDCl3 δ: 7.77 (brd s, 1H), 7.16 (d, J=9.1 Hz, 2H), 6.68 (d, J=9.1 Hz, 2H), 3.44-3.35 (m, 4H), 3.29 (d, J=9.6 Hz, 2H), 3.02 (d, J=9.6 Hz, 2H), 2.51 (t, J=6.2 Hz, 2H), 2.10-1.90 (m, 2H), 1.83-1.76 (m, 2H), 1.73-1.57 (m, 6H).

reactant | 3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1] octane hydrochloride salt | 5.79 mmol, 1.5 g | Cl.ClC1=CC=C(C=C1)N1CC2CCC(C1)N2
reactant | triethylamine | 12.73 mmol, 1.77 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid 4-(2,2,2-trifluoro-acetylamino)-butyl ester | 8.68 mmol, 2.29 g | FC(C(=O)NCCCCOS(=O)(=O)C)(F)F | C7H12F3NO4S
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
product | N-{4-[3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-butyl}-2,2,2-trifluoro-acetamide | 39% | ClC1=CC=C(C=C1)N1CC2CCC(C1)N2CCCCNC(C(F)(F)F)=O | C18H23ClF3N3O
